US07361677B2
4-(N,N-Dimethylsulfamoyl)-3-methoxybenzaldehyde (OBS02011)
To a solution of vanillin (4.56 g, 30 mmol) in N,N-dimethylcyclohexylamine (30 mL) at 80-90° C., was added N,N-dimethylsulfamoyl chloride (3.79 mL, 35.27 mmol). The mixture was stirred at this temperature for 4 h, transferred to a separating funnel and diluted with EtOAc (100 mL). The organic layer was washed with water (2×200 mL), 6M HCl (aq.) (200 mL), brine (2×200 mL), dried (Na2SO4) and filtered. Concentration in vacuo of the combined filtrates gave a golden-yellow oil which solidified on standing. The product was stirred in n-hexane, filtered and air-dried to give OBS02011 as yellow plates (6.92 g, 89%). TLC [SiO2, EtOAc-n-hexane (1:1)] Rf=0.65; 1H-NMR (270 MHz, CDCl3)=2.98 (6H, s), 3.93 (3H, s), 7.44 (1H, d, J=1.6), 7.48 (1H, dd, J=1.6, 8.1), 7.53 (1H, d, J=8.1), 9.92 (1H, s).

reactant | vanillin | 30 mmol, 4.56 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | N,N-dimethylsulfamoyl chloride | 35.27 mmol, 3.79 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | EtOAc n-hexane | CCOC(=O)C.CCCCCC
solvent | N,N-dimethylcyclohexylamine | 30 mL | CN(C)C1CCCCC1 | C8H17N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 4-(N,N-Dimethylsulfamoyl)-3-methoxybenzaldehyde | CN(S(=O)(=O)C1=C(C=C(C=O)C=C1)OC)C | C10H13NO4S
